US07132428B2
a) Furan-2-carboxylic acid (3-methyl-5-phenyl-1H-pyrazol-4-yl)-amide (E1).
To a RT solution of 337.3 mg of 3-methyl-5-phenyl-1H-pyrazol-4-ylamine in 4 mL methylene chloride was added 407 μL of triethylamine and 201 μL of 2-furoyl chloride. After 2 h at RT, the reaction mixture was concentrated under reduced pressure and the residue was dissolved in chloroform and washed with saturated aqueous sodium carbonate and brine. The organic portion was dried with sodium sulfate and concentrated under reduced pressure. The residue contained the title compound as a yellow, amorphous solid and was used without further purification.

reactant | 3-methyl-5-phenyl-1H-pyrazol-4-ylamine | 337.3 mg | CC1=NNC(=C1N)C1=CC=CC=C1 | C10H11N3
reactant | triethylamine | 407 μL | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 201 μL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | Furan-2-carboxylic acid (3-methyl-5-phenyl-1H-pyrazol-4-yl)-amide | CC1=NNC(=C1NC(=O)C=1OC=CC1)C1=CC=CC=C1 | C15H13N3O2
